US05929067
g) N-Methyl-N-tert-butyloxycarbonyl-amino-3-(naphth-2-yl)-propanal
A solution of 5.0 g of N-methyl-N-tert-butyloxycarbonyl-amino-3-(naphth-2-yl)-propanecarboxylic acid methyl ester in 110 ml of toluene is cooled to -78° under argon. 17.5 ml of a 20% diisobutylaluminium hydride solution in toluene are then added dropwise to that solution over a period of 45 minutes. When the dropwise addition is complete, the mixture is stirred at that temperature for a further 45 minutes. Then at the same temperature 5 ml of methanol and at 0° 180 ml of a solution of 54 g of potassium sodium tartrate (tetrahydrate) in water are added to the reaction mixture. The mixture is stirred vigorously at 0° for 2 hours. The phases are then separated and the aqueous phase is extracted three times with methylene chloride. The combined organic phases are washed with water and saturated NaCl solution, dried (magnesium sulfate) and concentrated by evaporation. The title compound is obtained in the form of a yellowish-green oil and is reacted further without being purified. Rf value=0.42 (methylene chloride/methanol 19:1). IR(CH2Cl2) cm-1 : 2972, 1735,1693,1454, 1392, 1367,1247,1156, 858, 818.

reactant | N-methyl-N-tert-butyloxycarbonyl-amino-3-(naphth-2-yl)-propanecarboxylic acid methyl ester | 5.0 g | COC(=O)C(CCC1=CC2=CC=CC=C2C=C1)N(C(=O)OC(C)(C)C)C | C21H27NO4
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 5 ml | CO | CH4O
reactant | potassium sodium tartrate | 54 g | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-Methyl-N-tert-butyloxycarbonyl-amino-3-(naphth-2-yl)-propanal | CN(C(=O)OC(C)(C)C)C(C=O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO3
